US07994318B2
Ethyl acetoacetate (5.20 g), piridine-4-aldehyde (4.28 g), piperidine (0.4 ml) and AcOH (0.24 ml) are mixed in CH2Cl2 (150 ml) at room temperature under nitrogen atmosphere. The reaction mixture is stirred overnight and the solvent is removed. The residue is dissolved in EtOH (150 ml). 10% Pd/C (1.0 g) is added and reaction mixture is stirred at room temperature under hydrogen for 7 hours. Concentration under reduced pressure after Celite® filtration afford Ethyl 2-(4-piridylmethyl)acetoacetate (8.0 g) as colorless oil.

reactant | Ethyl acetoacetate | 5.20 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piridine-4-aldehyde | 4.28 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | piperidine | 0.4 ml | N1CCCCC1 | C5H11N
reactant | AcOH | 0.24 ml | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-piridylmethyl)acetoacetate | 8.0 g | N1=CC=C(C=C1)CC(C(=O)OCC)C(=O)C | C12H15NO3
